US05990133
Phenyl N-[2,3-dihydro-7-(pyrid-3-yl)benzofuran-5-yl]carbamate (D65)
5-Amino-2,3-dihydro-7-(pyrid-3-yl)benzofuran (D64) (0.13 g, 0.00062 mole) was dissolved in dichloromethane (10 ml) and cooled to 0° C. under argon. Triethylamine (0.09 ml, 0.00068 mole) was added, followed dropwise by phenyl chloroformate (0.08 ml, 0.00065 mole) and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was washed with deionised water, dried (Na2SO4) and evaporated in vacuo to afford the title compound (0.20 g, 97%) as a cream solid.

reactant | 5-Amino-2,3-dihydro-7-(pyrid-3-yl)benzofuran | 0.00062 mole, 0.13 g | NC=1C=C(C2=C(CCO2)C1)C=1C=NC=CC1 | C13H12N2O
reactant | Triethylamine | 0.00068 mole, 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.00065 mole, 0.08 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Phenyl N-[2,3-dihydro-7-(pyrid-3-yl)benzofuran-5-yl]carbamate | 0.20 g, 97% | N1=CC(=CC=C1)C1=CC(=CC=2CCOC21)NC(OC2=CC=CC=C2)=O | C20H16N2O3
